** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/sar_10_bit.sch
**.subckt sar_10_bit RSTN busy START valid vcm vrefp ainn ainp CLK C0 C9 C1 C5 C6 C2 C7 C3 C8 C4 vss vdd Voutn
*.ipin ainn
*.ipin ainp
*.ipin CLK
*.ipin vrefp
*.ipin vcm
*.opin C1
*.opin C2
*.opin C3
*.opin C4
*.opin C5
*.opin C6
*.opin C7
*.opin C8
*.opin C0
*.opin C9
*.opin busy
*.opin valid
*.ipin START
*.ipin RSTN
*.iopin Voutn
*.iopin vdd
*.iopin vss
x1 Voutn vcn Voutp vcp vdd vss comp_clk strong_arm_comp
x3 vss sample sampleb vdd ainp vcp tg
x4 vss sample sampleb vdd ainn vcn tg
x2 vcp bp3 bp0 bp5 bp2 vcm bp1 bp7 bp6 bp8 bp4 bp9 vcn bn0 bn1 bn8 bn7 bn6 bn5 bn4 bn3 bn9 bn2 vcm cdac_caps_10b_diff
x15 vdd sample sampleb vss inverter
x6 dbp0 bp0 vss vdd vrefp vcm dac_sw_2to1_tg
x7 dbp1 bp1 vss vdd vrefp vcm dac_sw_2to1_tg
x8 dbp4 bp4 vss vdd vrefp vcm dac_sw_2to1_tg
x9 dbp5 bp5 vss vdd vrefp vcm dac_sw_2to1_tg
x10 dbp7 bp7 vss vdd vrefp vcm dac_sw_2to1_tg
x11 dbp8 bp8 vss vdd vrefp vcm dac_sw_2to1_tg
x12 dbp2 bp2 vss vdd vrefp vcm dac_sw_2to1_tg
x13 dbp3 bp3 vss vdd vrefp vcm dac_sw_2to1_tg
x14 dbp6 bp6 vss vdd vrefp vcm dac_sw_2to1_tg
x16 dbp9 bp9 vss vdd vrefp vcm dac_sw_2to1_tg
x17 dbn0 bn0 vss vdd vrefp vcm dac_sw_2to1_tg
x18 dbn1 bn1 vss vdd vrefp vcm dac_sw_2to1_tg
x19 dbn4 bn4 vss vdd vrefp vcm dac_sw_2to1_tg
x20 dbn5 bn5 vss vdd vrefp vcm dac_sw_2to1_tg
x21 dbn7 bn7 vss vdd vrefp vcm dac_sw_2to1_tg
x22 dbn8 bn8 vss vdd vrefp vcm dac_sw_2to1_tg
x23 dbn2 bn2 vss vdd vrefp vcm dac_sw_2to1_tg
x24 dbn3 bn3 vss vdd vrefp vcm dac_sw_2to1_tg
x25 dbn6 bn6 vss vdd vrefp vcm dac_sw_2to1_tg
x27 dbn9 bn9 vss vdd vrefp vcm dac_sw_2to1_tg
x5 CLK RSTN START Voutp sample comp_clk busy valid dbp9 dbp8 dbp7 dbp6 dbp5 dbp4 dbp3 dbp2 dbp1 dbp0 dbn9 dbn8 dbn7 dbn6 dbn5 dbn4
+ dbn3 dbn2 dbn1 dbn0 C9 C8 C7 C6 C5 C4 C3 C2 C1 C0 vdd vss sar_fsm_wrapper
**.ends

* expanding   symbol:  strong_arm_comp.sym # of pins=7
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/strong_arm_comp.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/strong_arm_comp.sch
.subckt strong_arm_comp Voutn Vinn Voutp Vinp vdd vss CLK
*.ipin Vinn
*.opin Voutp
*.iopin vdd
*.ipin Vinp
*.ipin CLK
*.iopin vss
*.opin Voutn
XM1 P CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM2 net1 CLK vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=8 mm_ok=1
XM3 X CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM4 P Vinn net1 vss sg13_hv_nmos w=2u l=0.45u ng=1 m=6 mm_ok=1
XM5 Q Vinp net1 vss sg13_hv_nmos w=2u l=0.45u ng=1 m=6 mm_ok=1
XM6 X Y P vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM7 Y X Q vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM8 X Y vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM9 Y CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM10 Q CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM11 Y X vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM12 net2 X vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM13 Voutp net2 vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM14 Voutn net3 vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM15 net3 Y vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 net2 X vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM17 Voutp Voutn vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM18 net3 Y vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM19 Voutn Voutp vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
.ends


* expanding   symbol:  tg.sym # of pins=6
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/tg.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/tg.sch
.subckt tg vss ng pg vdd a b
*.ipin ng
*.iopin vdd
*.ipin pg
*.iopin a
*.iopin b
*.iopin vss
XM12 b ng a vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 b pg a vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
.ends


* expanding   symbol:  cdac_caps_10b_diff.sym # of pins=24
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/cdac_caps_10b_diff.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/cdac_caps_10b_diff.sch
.subckt cdac_caps_10b_diff vcp bp3 bp0 bp5 bp2 bpd bp1 bp7 bp6 bp8 bp4 bp9 vcn bn0 bn1 bn8 bn7 bn6 bn5 bn4 bn3 bn9 bn2 bnd
*.iopin vcp
*.iopin vcn
*.iopin bpd
*.iopin bp0
*.iopin bp1
*.iopin bp2
*.iopin bp3
*.iopin bp4
*.iopin bp5
*.iopin bp6
*.iopin bp7
*.iopin bp8
*.iopin bp9
*.iopin bnd
*.iopin bn1
*.iopin bn2
*.iopin bn3
*.iopin bn4
*.iopin bn5
*.iopin bn6
*.iopin bn7
*.iopin bn8
*.iopin bn9
*.iopin bn0
C2 vcp bp0 {1*Cu}
C1 vcp bpd {1*Cu}
C3 vcp bp2 {4*Cu}
C4 vcp bp1 {2*Cu}
C5 vcp bp5 {32*Cu}
C6 vcp bp4 {16*Cu}
C7 vcp bp7 {128*Cu}
C8 vcp bp6 {64*Cu}
C9 vcp bp8 {256*Cu}
C10 vcp bp3 {8*Cu}
C12 vcp bp9 {512*Cu}
C11 vcn bn0 {1*Cu}
C13 vcn bnd {1*Cu}
C14 vcn bn2 {4*Cu}
C15 vcn bn1 {2*Cu}
C16 vcn bn5 {32*Cu}
C17 vcn bn4 {16*Cu}
C18 vcn bn7 {128*Cu}
C19 vcn bn6 {64*Cu}
C20 vcn bn8 {256*Cu}
C21 vcn bn3 {8*Cu}
C22 vcn bn9 {512*Cu}
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/inverter.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/inverter.sch
.subckt inverter vdd Vinn Voutp vss
*.iopin vdd
*.iopin vss
*.ipin Vinn
*.opin Voutp
XM12 Voutp Vinn vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 Voutp Vinn vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
.ends


* expanding   symbol:  dac_sw_2to1_tg.sym # of pins=6
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/dac_sw_2to1_tg.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/dac_sw_2to1_tg.sch
.subckt dac_sw_2to1_tg sel out vss vdd vref vcm
*.ipin sel
*.iopin vdd
*.iopin vref
*.iopin vcm
*.iopin vss
*.iopin out
x1 vss sel selb vdd vref out tg
x3 vss selb sel vdd vcm out tg
x2 vdd sel selb vss inverter
.ends


* expanding   symbol:  /home/arjun/eda/projects/SAR_ADC/circuit_files/src/sar_fsm/sar_fsm_wrapper.sym # of pins=40
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/src/sar_fsm/sar_fsm_wrapper.sym
.include /home/arjun/eda/projects/SAR_ADC/circuit_files/src/sar_fsm/build/sar_fsm_wrapper_ihp.spice
.end
